US09278950B2
Step 2. Benzyl [2-{[(4-{(3S)-3-[(tert-butoxycarbonyl)amino]piperidin-1-yl}pyridin-3-yl)amino]carbonyl}-7-(1-hydroxy-1-methylethyl)quinolin-3-yl]carbamate
To a mixture of tert-butyl [(3S)-1-(3-{[(7-acetyl-3-{[(benzyloxy)carbonyl]amino}quinolin-2-yl)carbonyl]amino}pyridin-4-yl)piperidin-3-yl]carbamate (0.100 g, 0.156 mmol) in THF (4.0 mL), methylmagnesium bromide in THF (3.0 M, 0.43 mL, 1.3 mmol) was added slowly at 0° C. under nitrogen. The reaction mixture was stirred at 0° C. for 1 h and was then allowed to warm to room temperature. The reaction mixture was diluted with EtOAc (10 mL), and 1 M HCl was slowly added to adjust the pH to 7. The aqueous layer was extracted twice with EtOAc. The organic extracts were combined, dried over Na2SO4, filtered and concentrated under reduced pressure to give the sub-title compound (94 mg, 92%). LCMS calc. for C36H43N6O6 (M+H)+: m/z=655.2. Found: 655.1.

reactant | tert-butyl [(3S)-1-(3-{[(7-acetyl-3-{[(benzyloxy)carbonyl]amino}quinolin-2-yl)carbonyl]amino}pyridin-4-yl)piperidin-3-yl]carbamate | 0.156 mmol, 0.100 g | C(C)(=O)C1=CC=C2C=C(C(=NC2=C1)C(=O)NC=1C=NC=CC1N1C[C@H](CCC1)NC(OC(C)(C)C)=O)NC(=O)OCC1=CC=CC=C1 | C35H38N6O6
reactant | THF | 4.0 mL | C1CCOC1 | C4H8O
reactant | THF | 1.3 mmol, 3.0 M, 0.43 mL | C1CCOC1 | C4H8O
solvent | methylmagnesium bromide | C[Mg]Br
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
solvent | HCl | 1 M | Cl | ClH
product | Benzyl [2-{[(4-{(3S)-3-[(tert-butoxycarbonyl)amino]piperidin-1-yl}pyridin-3-yl)amino]carbonyl}-7-(1-hydroxy-1-methylethyl)quinolin-3-yl]carbamate | 94 mg, 92% | C(C)(C)(C)OC(=O)N[C@@H]1CN(CCC1)C1=C(C=NC=C1)NC(=O)C1=NC2=CC(=CC=C2C=C1NC(OCC1=CC=CC=C1)=O)C(C)(C)O | C36H42N6O6
